** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/tb_tran_deadtime.sch
**.subckt tb_tran_deadtime
vc vc_p GND PULSE(0 VDD 0 1p 1p 0.5u 1u)
x4 vc_p out1 out2 deadtime_generator
**** begin user architecture code


* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all
set appendwrite

* DC Sweep
tran 100p 1u
remzerovec
end
write tb_tran_deadtime.raw
set appendwrite

* Plotting
plot v(out1) v(out2)+4 v(vc_p)-4

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice

**** end user architecture code
**.ends

* expanding   symbol:  deadtime_generator.sym # of pins=3
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/deadtime_generator.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/deadtime_generator.sch
.subckt deadtime_generator in out1 out2
*.ipin in
*.opin out1
*.opin out2
x4 net2 out1 net1 VDD VSS sg13cmos5l_nor2_1
x7 net1 in VDD VSS sg13cmos5l_inv_1
x5 net3 in out2 VDD VSS sg13cmos5l_nor2_1
x42 out1 net3 VDD VSS sg13cmos5l_dlygate4sd3_1
x1 out2 net2 VDD VSS sg13cmos5l_dlygate4sd3_1
.ends

.GLOBAL GND
.end
